US08211923B2
1-methyl-5-nitro-1,3-dihydro-indol-2-one
2 g 1-methyl-1,3-dihydro-indol-2-one are dissolved in 10 ml concentrated sulphuric acid and cooled to 0° C. To this is added dropwise a solution of 620 μl concentrated nitric acid in 2 ml concentrated sulphuric acid and the mixture is stirred for 30 minutes. Then it is poured onto 50 g ice, stirred for 1 hour, the solid is removed by suction filtering and dried in vacuo.

reactant | 1-methyl-1,3-dihydro-indol-2-one | 2 g | CN1C(CC2=CC=CC=C12)=O | C9H9NO
reactant | nitric acid | 620 μl | [N+](=O)(O)[O-] | HNO3
solvent | sulphuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
solvent | sulphuric acid | 2 ml | S(O)(O)(=O)=O | H2O4S
product | 1-methyl-5-nitro-1,3-dihydro-indol-2-one | CN1C(CC2=CC(=CC=C12)[N+](=O)[O-])=O | C9H8N2O3
